US04153716
To a mixture of 200 ml. of diethyl ether and 3.8 g. (0.1 mole) of lithium aluminum hydride under nitrogen is added dropwise a solution of 16 g. (0.057 mole) of ethyl 3-phenylbenzofuran-5-acetate (prepared from ethyl 4-hydroxyphenyl acetate and α-bromoacetophenone by the method described in Belgian Pat. No. 846,502) in 70 ml. of ether at a rate sufficient to maintain reflux for a total of one hour. The reaction is terminated by cautiously adding water (a total of 100 ml.). A 65 ml. portion of 10 percent sulfuric acid is added, the layers are separated and the organic layer is washed twice with water, twice with saturated sodium chloride solution and dried. Evaporation to dryness provides an orange residue of 5-(2-hydroxyethyl)-3-phenylbenzofuran. The structural assignment is confirmed by infrared and nuclear magnetic resonance spectral analysis.

reactant | lithium aluminum hydride | 0.1 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-phenylbenzofuran-5-acetate | 0.057 mole | C1(=CC=CC=C1)C1=COC2=C1C=C(C=C2)CC(=O)OCC | C18H16O3
reactant | ethyl 4-hydroxyphenyl acetate | CCC1=C(C=CC(=C1)O)OC(=O)C | C10H12O3
reactant | α-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(2-hydroxyethyl)-3-phenylbenzofuran | OCCC=1C=CC2=C(C(=CO2)C2=CC=CC=C2)C1 | C16H14O2
